US04833136
2-(2,4-Dinitrophenyl)-3-methyl-4-nitropyrazole (16.0 g, 0.055 mole) was dissolved in methanol (250 ml). Sodium methoxide (11.0 g, 0.22 mole) was added dropwise as a suspension in methanol. The colour of the reaction mixture changed from yellow to a dark red. The reaction mixture was then stirred at room temperature for 3 h. The methanol was removed in vacuo to give a dark red oil, which was neutralized by pouring onto ice/HCl. The resulting brown precipitate of dinitroanisole was filtered off and discarded. The aqueous filtrate was neutralized with 10% sodium carbonate solution and extracted with ethyl acetate (3×200 ml), dried and evaporated to dryness to give a yellow solid. Crystallisation from ether/methanol gave pale yellow needles of 3-methyl-4-nitropyrazole (6.0 g, 86%).

reactant | 2-(2,4-Dinitrophenyl)-3-methyl-4-nitropyrazole | 0.055 mole, 16.0 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])N1N=CC(=C1C)[N+](=O)[O-] | C10H7N5O6
reactant | Sodium methoxide | 0.22 mole, 11.0 g | C[O-].[Na+]
solvent | methanol | 250 ml | CO | CH4O
product | 3-methyl-4-nitropyrazole | 6.0 g, 86% | CC1=NNC=C1[N+](=O)[O-] | C4H5N3O2
